US05200526
To Na2S2O3 (73.2 mg, 0.463 mmol) in H2O (I mL) at pH 5.0 was added (S)-3-amino-2-oxetanone TFA salt (produced from BOC-L-serine β-lactone (43.0 mg, 0.23 mmol)) in H2O (1 mL). The pH was maintained at 5.0 for 1 h and the solvent was removed in vacuo at 25° C. The residue was dissolved in H2O (1.0 mL), applied to a column of Rexyn 102 trademark) (1×10 cm, H+ form) and eluted with (0.25 mL/min). S-sulfo-L-cysteine (Rf 0.81, System A; characteristic brown color with ninhydrin) eluted chromatographically pure as the monosodium salt after 15-20 mL. Lyophilization and recrystallization from H2O/Et2O (pH 5) provided 49.7 mg (83%) of S-sulfo-L-cysteine monosodium salt dihydrate as a white solid: mp 35° C. foams but remains white (loss of H2O), 202°-204° C. (dec); [α]D 25-83.7 (±0.2)° (c 2.5, H2O (lit. [α]D 25 -86.8° (c 4.73, H2O)37 for the 1κ hydrate); IR (KBr disk) 3450 (m, br), 3150 (m, br), 1635 (s, br), 1515 (m), 1400 (m), 1358 (m), 1235 (s), 1217 (s), 1200 (s), 1137 (s), 1030 (s), 636 (s) cm-1 ; 1H NMR (300 MHz, D2O δ 4.18 dd, 1H, 3.7, 8.0 Hz, CH), 3.68 (dd, 1H, 3.7, 15.5 Hz, CHHSSO3-), 3.50 (dd, 1H, 8.0, 15.5 Hz, CHHSSO3-). Anal. Calc. for C3H6NO5S2Na.2H2O (FW 259.2 : C, 13.90; H, 3.89; N, 5.40; S, 24.74. Found: C, 14.11; H, 3.85; N, 5.21; S, 24.59; NEGFAB-MS (glycerol) 200 (-O3SSCH2CH(NH2)COOH).

reactant | Na2S2O3 | 0.463 mmol, 73.2 mg | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | (S)-3-amino-2-oxetanone TFA salt | 0.23 mmol, 43.0 mg | OC(=O)C(F)(F)F.N[C@@H]1C(OC1)=O
solvent | H2O | O | H2O
solvent | H2O | 1 mL | O | H2O
product | S-sulfo-L-cysteine monosodium salt dihydrate | 49.7 mg, 83% | O.O.[Na+].S(=O)(=O)(O)SC[C@H](N)C(=O)[O-] | InChI=1S/C3H7NO5S2.Na.2H2O/c4-2(3(5)6)1-10-11(7,8)9;;;/h2H,1,4H2,(H,5,6)(H,7,8,9);;2*1H2/q;+1;;/p-1/t2-;;;/m0.../s1
